US03984465
Step C: (1-Oxo-2-allyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic Acid
A stirred mixture of 2-allyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone (3.4 g, 0.0126 mole), potassium carbonate (4.2 g.) and ethyl bromoacetate (4.8 g.) in DMF (40 ml.) is warmed at 55° C. in an inert atmosphere, then treated with water (40 ml.) and 10N sodium hydroxide (2 ml.) and heated on a steam bath for one hour, poured into water (300 ml.), acidified and extracted with ether. The ether extract is washed with water, dried over magnesium sulfate and the solvent evaporated to leave a tan oil which is purified by chromatography over silica affording 2.0 g. of (1-oxo-2-allyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic acid as a tan oil.

reactant | 2-allyl-2-methyl-5-hydroxy-6,7-dichloro-1-indanone | 0.0126 mole, 3.4 g | C(C=C)C1(C(C2=C(C(=C(C=C2C1)O)Cl)Cl)=O)C | C13H12Cl2O2
reactant | potassium carbonate | 4.2 g | C([O-])([O-])=O.[K+].[K+]
reactant | ethyl bromoacetate | 4.8 g | BrCC(=O)OCC | C4H7BrO2
reactant | sodium hydroxide | 10N, 2 ml | [OH-].[Na+]
solvent | DMF | 40 ml | CN(C)C=O | C3H7NO
solvent | water | 300 ml | O | H2O
solvent | water | 40 ml | O | H2O
product | (1-Oxo-2-allyl-2-methyl-6,7-dichloro-5-indanyloxy)acetic Acid | O=C1C(CC2=CC(=C(C(=C12)Cl)Cl)OCC(=O)O)(C)CC=C | C15H14Cl2O4
